US06965048B2
1 g (2.71 mmol) of trans-(4-{2-[(3-hydroxy-propyl)-methyl-carbamoyl]-ethoxy}-cyclohexyl)-methyl-carbamic acid tert-butyl ester was dissolved in 5 mL of TBME and 5.4 mL of 5M HCl in TBME were added at 0° C. The solution was stirred at RT, additional 1.5 mL of 5M HCl in TBME were added and stirring was continued. Evaporation of the solvent yielded the crude trans-N-(3-hydroxy-propyl)-N-methyl-3-(4-methylamino-cyclohexyloxy)-propionamide-hydrochloride, MS: 273 (MH+).

reactant | trans-(4-{2-[(3-hydroxy-propyl)-methyl-carbamoyl]-ethoxy}-cyclohexyl)-methyl-carbamic acid tert-butyl ester | 2.71 mmol, 1 g | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)OCCC(N(C)CCCO)=O)=O | C19H36N2O5
reactant | HCl | 5M, 5.4 mL | Cl | ClH
reactant | HCl | 5M, 1.5 mL | Cl | ClH
solvent | TBME | 5 mL | CC(C)(C)OC | C5H12O
product | trans-N-(3-hydroxy-propyl)-N-methyl-3-(4-methylamino-cyclohexyloxy)-propionamide-hydrochloride | Cl.OCCCN(C(CCO[C@@H]1CC[C@H](CC1)NC)=O)C | InChI=1S/C14H28N2O3.ClH/c1-15-12-4-6-13(7-5-12)19-11-8-14(18)16(2)9-3-10-17;/h12-13,15,17H,3-11H2,1-2H3;1H/t12-,13-;
